US05412117
To a mixture of 1.4 g of N-methyl-6-cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide, 15 ml of tetrahydrofuran, and 15 ml of methanol was added 0.23 g of sodium borohydride (NaBH4) at -10° C. with stirring, followed by stirring at -10° C. for 2 hours and then at room temperature for 2 hours. The reaction mixture was distilled under reduced pressure, ice-water added to the residue, and the mixture made acidic with acetic acid and extracted with diethyl ether and ethyl acetate. The organic layer combined was dried over Na2SO4, followed by distillation. The residue was subjected to silica gel column chromatography (developing solution: CH2Cl2 :AcOEt=2:1). From the first fraction was obtained 0.1 g of cis-N-methyl-6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide represented by formula shown below.

reactant | N-methyl-6-cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 1.4 g | CNC(=S)C1=C(C(OC2=C1C=C(C=C2)C#N)(C)C)O | C14H14N2O2S
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.23 g | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | cis-N-methyl-6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 0.1 g | CNC(=S)[C@@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C14H16N2O2S
